US05834506
2-(4-Nitro-benzyl)-5-(4-nitro-phenyl)-3-oxo-pentanoic acid ethyl ester
To a solution of 5-(4-nitro-phenyl)-3-oxo-pentanoic acid ethyl ester prepared in Example FF (14.2 g, 54 mmol) in dry THF (150 mL) was added NaH (2.43 g of a 60% dispersion in oil, 57.5 mmol), and the mixture was stirred at room temperature for 45 minutes. 4-Nitrobenzyl bromide (13.9 g, 64.3 mmol) was added all at once, and the resulting suspension was stirred overnight at room temperature. Dilute HCl (2N, 100 mL) was added. The solution was extracted with EtOAc; the extracts were combined, washed with brine, and dried (MgSO4). Concentration gave a residue which was chromatographed on silica gel, eluting with 5:1 hexane:EtOAc to 1:1 hexane:EtOAc, to yield the title compound. 1H NMR (CDCl3) δ 1.11 (t, 3 H), 2.66 (m, 1 H), 2.95 (m, 3 H), 3.21 (m, 2 H), 3.75 (t, 1 H), 4.07 (m, 2 H), 7.23 (m, 4 H), 8.05 (d, 4 H).

reactant | 5-(4-nitro-phenyl)-3-oxo-pentanoic acid ethyl ester | C(C)OC(CC(CCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C13H15NO5
reactant | NaH | [H-].[Na+]
reactant | 4-Nitrobenzyl bromide | 64.3 mmol, 13.9 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | HCl | 2N, 100 mL | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-(4-Nitro-benzyl)-5-(4-nitro-phenyl)-3-oxo-pentanoic acid ethyl ester | C(C)OC(C(C(CCC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C20H20N2O7
